US04563348
Synthesis of Sec-butyl (Z)-7-tetradecenoate
Tetrahydropyranyl ether derivative of 7-tetradecyne-1-ol. To a cooled solution (-15° C.) of 1-octyne (7.95 g) in 30 ml of dry tetrahydrofuran under a nitrogen atmosphere was added dropwise 30.4 ml of 2.09M butyllithium in hexane. The addition took 30 minutes, after which the reaction was warmed to 0° C. and then cooled to -10° C. This solution was added slowly to a cold (0° C.) solution of the tetrahydropyranyl ether derivative of hexamethylene bromohydrin (14.80 g) in 50 ml of hexamethylphosphoric triamide under nitrogen. The reaction mixture was allowed to warm to room temperature, stirred overnight, poured into cold water, and extracted three times with hexane. The combined organic layers were washed with water (three times) and brine, and dried with anhydrous Na2SO4. Removal of solvent under reduced pressure yielded 18.55 g of impure tetrahydropyranyl ether derivative of 7-tetradecyne-1-ol as a yellow oil. This material was used without further purification in the next step.

reactant | Tetrahydropyranyl ether | O1C(CCCC1)OC1OCCCC1 | C10H18O3
reactant | 7-tetradecyne-1-ol | C(CCCCCC#CCCCCCC)O | C14H26O
reactant | 1-octyne | 7.95 g | C#CCCCCCC | C8H14
reactant | butyllithium | 2.09M, 30.4 ml | C(CCC)[Li]
reactant | hexamethylene bromohydrin | 14.80 g | C(CCCCCO)Br | C6H13BrO
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | hexamethylphosphoric triamide | 50 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
solvent | water | O | H2O
product | Sec-butyl (Z)-7-tetradecenoate | 18.55 g | C(CCCCC\C=C/CCCCCC)(=O)OC(C)CC | C18H34O2
